US04782162
E-2-(2-Acetamidothiazol-4-yl)-2-butenoic acid
22 parts by weight of ethyl E-2-(2-acetamidothiazol-yl)-2-butenoate are added to a solution of 12 parts by weight of sodium hydroxide in 130 parts by volume of water. After the mixture has been stirred at 25° C. for 90 minutes, 750 parts by volume of water are added, while cooling with ice, and the pH is brought to 2.8 with 2N hydrochloric acid. The product precipitated is filtered off with suction, washed twice with 50 parts by volume of water each time and dried. 17.9 parts by weight of the title compound are obtained.

reactant | ethyl E-2-(2-acetamidothiazol-yl)-2-butenoate | C(C)(=O)NC=1SC=C(N1)/C(/C(=O)OCC)=C\C | C11H14N2O3S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | water | O | H2O
product | E-2-(2-Acetamidothiazol-4-yl)-2-butenoic acid | C(C)(=O)NC=1SC=C(N1)/C(/C(=O)O)=C\C | C9H10N2O3S
